US07790709B2
Preparation of (E)-N-(4-Fluoro-naphthalen-1-ylmethyl)-N-methyl-3-[3-(2-morpholin-4-yl-ethyl)-2-oxo-1,2,3,4-tetrahydro-pyrido[2,3-d]pyrimidin-6-yl]acrylamide hydrochloride
According to the procedure of Example 1, except substituting 4-fluoro-naphthalen-1-ylmethyl-methylamine for the methyl-(1-propyl-naphthalen-2-ylmethyl)amine, and substituting (E)-3-[3-(2-morpholin-4-yl-ethyl)-2-oxo-1,2,3,4-tetrahydro-pyrido[2,3-d]pyrimidin-6-yl]acrylic acid hydrochloride for the (E)-3-(4-methyl-2-oxo-2,3,4,5-tetrahydro-1H-pyrido[2,3,-e][1,4]diazepin-7-yl)acrylic acid hydrochloride, the title compound (0.13 g, 43%) was prepared as an off-white solid: 1H NMR (500 MHz, DMSO-d6) δ 10.64-10.51 (m, 1H), 10.12 (m, 1H), 8.45-8.30 (m, 1H), 8.22-8.07 (m, 2H), 8.03-7.86 (m, 1H), 7.78-7.62 (m, 2H), 7.63-7.51 (m, 1H), 7.43 (t, J=7.5 Hz, 1H), 7.32 (t, J=8.6 Hz, 1H), 7.21-7.12 (m, 1H), 5.03-5.02 (m, 2H), 4.57-4.42 (m, 2H), 4.01-3.91 (m, 2H), 3.80-3.63 (m, 4H), 3.53-3.43 (m, 2H), 3.40-3.25 (m, 2H), 3.09-2.96 (m, 5H); MS (ESI) m/e 504 (M+H)+.

reactant | 4-fluoro-naphthalen-1-ylmethyl-methylamine | FC1=CC=C(C2=CC=CC=C12)CNC | C12H12FN
reactant | methyl-(1-propyl-naphthalen-2-ylmethyl)amine | CNCC1=C(C2=CC=CC=C2C=C1)CCC | C15H19N
reactant | (E)-3-[3-(2-morpholin-4-yl-ethyl)-2-oxo-1,2,3,4-tetrahydro-pyrido[2,3-d]pyrimidin-6-yl]acrylic acid hydrochloride | Cl.N1(CCOCC1)CCN1C(NC2=C(C1)C=C(C=N2)/C=C/C(=O)O)=O
product | (E)-N-(4-Fluoro-naphthalen-1-ylmethyl)-N-methyl-3-[3-(2-morpholin-4-yl-ethyl)-2-oxo-1,2,3,4-tetrahydro-pyrido[2,3-d]pyrimidin-6-yl]acrylamide hydrochloride | 0.13 g, 43% | Cl.FC1=CC=C(C2=CC=CC=C12)CN(C(\C=C\C1=CC2=C(NC(N(C2)CCN2CCOCC2)=O)N=C1)=O)C | InChI=1S/C28H30FN5O3.ClH/c1-32(18-21-7-8-25(29)24-5-3-2-4-23(21)24)26(35)9-6-20-16-22-19-34(28(36)31-27(22)30-17-20)11-10-33-12-14-37-15-13-33;/h2-9,16-17H,10-15,18-19H2,1H3,(H,30,31,36);1H/b9-6+;
